US07115615B2
7-(2-hydroxy-3-morpholinopropoxy)-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline dihydrochloride salt
A mixture of 7-(2-acetoxy-3-morpholinopropoxy)-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline dihydrochloride (0.104 g) and a saturated methanolic ammonia solution (3 ml) was stirred at ambient temperature for 16 hours. The mixture was evaporated and the residue was purified by column chromatography on silica (Isolute ammonia-treated silica from International Sorbent Technology Limited, catalogue reference 9470-0100) using a 19:1 mixture of methylene chloride and methanol as eluent. The material so obtained was dissolved in methylene chloride (3 ml) and a 6M solution of hydrogen chloride in isopropanol (0.3 ml) was added with stirring. Diethyl ether (10 ml) was added and the resultant precipitate was isolated, washed with diethyl ether and dried under vacuum. There was thus obtained the title compound (0.095 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 3.15–3.45 (m, 4H), 3.54 (d, 2H), 3.74–3.91 (d, 2H), 3.97 (d, 2H), 4.02 (s, 3H), 4.24 (d, 2H), 4.49–4.58 (m, 1H), 6.08 (s, 2H), 6.96–7.04 (m, 3H), 7.47 (s, 1H), 8.23 (s, 1H), 8.88 (s, 1H); Mass Spectrum: M+H+ 455.

reactant | 7-(2-acetoxy-3-morpholinopropoxy)-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline dihydrochloride | 0.104 g | Cl.Cl.C(C)(=O)OC(COC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1)OCO2)OC)CN2CCOCC2
reactant | ammonia | 3 ml | N | H3N
reactant | hydrogen chloride | Cl | ClH
reactant | Diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 0.3 ml | C(C)(C)O | C3H8O
product | 7-(2-hydroxy-3-morpholinopropoxy)-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline dihydrochloride salt | Cl.Cl.OC(COC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1)OCO2)OC)CN2CCOCC2 | InChI=1S/C23H26N4O6.2ClH/c1-29-20-9-16-18(10-21(20)31-12-15(28)11-27-5-7-30-8-6-27)24-13-25-23(16)26-17-3-2-4-19-22(17)33-14-32-19;;/h2-4,9-10,13,15,28H,5-8,11-12,14H2,1H3,(H,24,25,26);2*1H
